US07291643B2
5-(4-amino-2-fluorophenyl)-1-methyl-1H-pyrrole-2-carbonitrile (200 mg, 0.93 mmol) was dissolved in isopropyl sulfonyl chloride (0.50 mL, 2.8 mmol), pyridine (0.2 mL) was added and the mixture was heated to 100° C. for 6 hours. The mixture was then cooled and diluted with water and extracted with ethyl acetate. The organics were combined, washed with water, brine, dried over MgSO4, and concentrated. Flash chromatography (0%-100% ethyl acetate in hexane) afforded N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)-3-fluorophenyl]propane-2-sulfonamide (58 mg).

reactant | 5-(4-amino-2-fluorophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | 0.93 mmol, 200 mg | NC1=CC(=C(C=C1)C1=CC=C(N1C)C#N)F | C12H10FN3
reactant | isopropyl sulfonyl chloride | 2.8 mmol, 0.50 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)-3-fluorophenyl]propane-2-sulfonamide | 58 mg | C(#N)C1=CC=C(N1C)C1=C(C=C(C=C1)NS(=O)(=O)C(C)C)F | C15H16FN3O2S
